US07323472B2
To a solution of 4-(2-fluoro-phenyl)-6-(2-fluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde, as described in Example 22, (400 mg, 1.1 mmol) in pyridine (2 mL) was added Ac2O (2 mL) and the reaction mixture was heated under reflux for 48 h, solvent was evaporated and the residue was dissolved in EtOAc (40 mL), washed with 1 M aq Na2CO3, and H2O and satd aq NaCl, dried (MgSO4), filtered and solvent was evaporated. The yellow residue was purified by Flash chromatography to afford pure 4,8-bis-(2-fluoro-phenyl)-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one (320 mg, 76% yield). 1H-NMR (CDCl3) δ 2.21 (s, 3H), 6.76 (d, 1H, J=9.6 Hz), 7.22-7.42 (m, 4H), 7.45-7.67 (m, 5H). LC MS (m/e)=382 (MH+).

reactant | 4-(2-fluoro-phenyl)-6-(2-fluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | FC1=C(C=CC=C1)C1=NC(=NC(=C1C=O)NC1=C(C=CC=C1)F)SC | C18H13F2N3OS
reactant | Ac2O | 2 mL | CC(=O)OC(=O)C | C4H6O3
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 4,8-bis-(2-fluoro-phenyl)-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 320 mg, 76% yield | FC1=C(C=CC=C1)C=1C2=C(N=C(N1)SC)N(C(C=C2)=O)C2=C(C=CC=C2)F | C20H13F2N3OS
